US06350762B1
540 mg (2.49 mmol) of 3-oxo-N-(3-phenyl-2-propene-1-yl)butyramide, 0.28 ml (2.47 mmol) of 3-chlorobenzaldehyde and 0.05 ml (0.51 mmol) of piperidine were heated under reflux in the presence of a catalytic amount of p-toluenesulfonic acid in 30 ml of benzene overnight while water was removed. Ethyl acetate was added to the reaction mixture. After washing with 2 N hydrochloric acid and then with a saturated aqueous sodium hydrogencarbonate solution, the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain 2-acetyl-3-(3-chlorophenyl)-N-(3-phenyl-2-propene-1-yl)acrylamide. The title compound was obtained from this compound and 212 mg (2.58 mmol) of 3-aminocrotonitrile in the same manner as that of Example 1-3).

reactant | 3-oxo-N-(3-phenyl-2-propene-1-yl)butyramide | 2.49 mmol, 540 mg | O=C(CC(=O)NCC=CC1=CC=CC=C1)C | C13H15NO2
reactant | 3-chlorobenzaldehyde | 2.47 mmol, 0.28 ml | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | piperidine | 0.51 mmol, 0.05 ml | N1CCCCC1 | C5H11N
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 2-acetyl-3-(3-chlorophenyl)-N-(3-phenyl-2-propene-1-yl)acrylamide | C(C)(=O)C(C(=O)NCC=CC1=CC=CC=C1)=CC1=CC(=CC=C1)Cl | C20H18ClNO2
